US07449467B2
tert-Butyl 4-[5-(Trifluoromethyl)pyridin-3-yl]piperazine-1-carboxylate
Copper(I) iodide (0.49 g, 2.6 mmol) and potassium fluoride (0.15 g, 2.6 mmol) in a flask were flame-heated under gentle shaking and at high vacuum until a greenish color appeared. A solution of tert-butyl 4-(3-iodophenyl)piperazine-1-carboxylate (0.5 g, 1.0 mmol) and (trifluoromethyl)trimethylsilane (0.37 g, 2.6 mmol) in DMF (5 mL) was added. The brown solution was stirred at room temperature overnight. More (trifluoromethyl)trimethylsilane (0.37 g) was added. The mixture was heated at 50° C. overnight, diluted with EtOAc and washed with saturated ammonium chloride. The aqueous layer was extracted with EtOAc three times. The combined organic layers were dried (MgSO4), concentrated and purified by flash chromatography on silica gel (20% to 40% EtOAc/hexanes) to give 120 mg of desired product. MS calculated for C15H20F3N3O2: (M+H) 332; found 332.1.

reactant | potassium fluoride | 2.6 mmol, 0.15 g | [F-].[K+]
reactant | tert-butyl 4-(3-iodophenyl)piperazine-1-carboxylate | 1.0 mmol, 0.5 g | IC=1C=C(C=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21IN2O2
reactant | (trifluoromethyl)trimethylsilane | 2.6 mmol, 0.37 g | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | (trifluoromethyl)trimethylsilane | 0.37 g | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Copper(I) iodide | 2.6 mmol, 0.49 g | [Cu]I
product | tert-Butyl 4-[5-(Trifluoromethyl)pyridin-3-yl]piperazine-1-carboxylate | 120 mg | FC(C=1C=C(C=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C15H20F3N3O2
